2119-11-07 09:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Persistently hypotensive s/p 8 L of IVF
   - Hct from 27 to 19 -> given 3 units of PRBC
   - NG lavage negative
   - LIJ placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-11-6**] 06:30 PM
   Metronidazole - [**2119-11-6**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-11-6**] 08:00 PM
   Other medications:
   Vit K, Go lytely, Cipro, Flagyl, HAART, Azithro, Lactulose,
   Pantprazole, Rifaximin, Ferrous sulfate, Batrim, MV
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-7**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 77 (59 - 84) bpm
   BP: 101/54(65) {75/24(48) - 126/54(65)} mmHg
   RR: 24 (10 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 5 (5 - 7)mmHg
   Total In:
                                                                  7,949 mL
                                                                  3,833 mL
   PO:
   TF:
   IVF:
                                                                  6,749 mL
                                                                  1,851 mL
   Blood products:
                                                                  1,982 mL
   Total out:
                                                                    325 mL
                                                                    695 mL
   Urine:
                                                                    325 mL
                                                                    320 mL
   NG:
                                                                    375 mL
   Stool:
   Drains:
   Balance:
                                                                  7,624 mL
                                                                  3,138 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///11/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  jaundiced, no rash
   Neurologic: Attentive, Responds to: verbal commands, Movement:
   purposeful, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   73 K/uL
   69 mg/dL
   3.3 mg/dL
   11 mEq/L
   4.4 mEq/L
   52 mg/dL
   110 mEq/L
   132 mEq/L
   24.1 %
   6.9 K/uL
        [image002.jpg]
                             [**2119-11-7**]  12:02 AM
                             [**2119-11-7**]  02:07 AM
                             [**2119-11-7**]  04:43 AM
   WBC
   7.1
   6.9
   Hct
   19.1
   24.0
   24.1
   Plt
   72
   73
   Cr
   3.6
   3.3
   Glucose
   64
   69
   Other labs: PT / PTT / INR:26.7/76.6/2.6, ALT / AST:137/404, Alk Phos /
   T Bili:90/22.3, Amylase / Lipase:/145, Fibrinogen:114 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.6 g/dL, LDH:418 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.8 mg/dL
   Imaging: CTA - Final read pending.
   Microbiology: No new culture data.
   Assessment and Plan
   42 y/o male with AIDS & hepatitis C, p/w fever, nausea/ vomiting, acute
   renal failure and RUQ pain.  Recent issues have included persistent
   hypotension requiring large volume resuscitation, and dropping hct
   # Hypotension: Thought [**2-6**] volume depletion, but still hypotensive
   after 10 L of IVF.  Sepsis must be considered.
   - IVF to maintain MAP > 55, goal CVP goal > 10
   - [**Last Name (un) 567**] stim
   - Continue Abx, f/u cultures
   - Low bicarb: check ABG to determine acid-base status (?lactatic
   acidosis, RTA, etc)
   # Abdominal pain: Possible etiologies include SBP, colitis (CMV? given
   HIV), pancreatitis, and c. diff highest on the list.
   - F/U repeat stool studies, CMV viral load
   - Dx paracentesis to r/o SBP once coagulopathy reversed
   - Abx narrowed to CTX/Flagyl for SBP
   - Plan for [**Last Name (un) **] today
   - F/U Final CT Abd read (r/o pancreatitis)
   - NPO
   # Decompensated Cirrhosis: Likely progression of liver disease [**2-6**]
   underlying Hep C (viral load 405K).
   - Hold lasix and aldactone while hypotensive
   - Continue lactulose/rifaximin
   - Continue nadolol
   - Hepatology consult appreciated
   # ARF: Likey pre-renal given poor PO intake.  [**Month (only) 8**] also be a component
   of hepato-renal syndrome.  Too acute for HIVAN.
   - IVF, trend creatinine
 slightly better today
   - Appreciate hepatology input
 consider renal consult if doesn
   improve with IVF
   - [**Month (only) 8**] need midodrine or albumin if more consistent with HRS
   # Coagulopathy:
   - Vit K to reverse
   - Consider FFP with para today
   # Anemia: Acute on chronic with history of possible GI bleeding. No
   events here.  H/o varices.
   - Serial Hcts
   - T&C, Hct goal >28
 1 unit PRBC today
   - PPI
   - EGD/[**Last Name (un) **] this afternoon per hepatology
   # Hyponatremia: Likely hypovolemic hyponatremia
   - Follow with IVF
   # HIV/AIDS:
   - Continue outpatient HAART regimen
   - Continue azithro, bactrim and fluconazole
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-11-6**] 05:22 PM
   Multi Lumen - [**2119-11-7**] 03:34 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2119-11-08 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2119-11-7**] 03:33 PM
 STOOL CULTURE - At [**2119-11-8**] 03:00 AM
   CTA Abd/Pelvis:  ?RML PNA.  No evidence of intraabdominal hemorrhage
   UA with 21-50 RBC, [**11-24**] WBC, Mod Bacteria.  Foley already exchanged
   day prior.  Awaiting culture results
   Continued to spike to 102 overnight.
   Creatinine in PM unchanged, 1.8 --> 1.8
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-11-6**] 06:30 PM
   Ceftriaxone - [**2119-11-7**] 11:30 AM
   Azithromycin - [**2119-11-7**] 03:05 PM
   Metronidazole - [**2119-11-8**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-11-7**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-8**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 81 (74 - 88) bpm
   BP: 128/81(90) {87/47(58) - 128/81(90)} mmHg
   RR: 25 (13 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (3 - 319)mmHg
   Total In:
                                                                 12,252 mL
                                                                    706 mL
   PO:
   TF:
   IVF:
                                                                  8,667 mL
                                                                    171 mL
   Blood products:
                                                                  3,585 mL
                                                                    535 mL
   Total out:
                                                                  2,410 mL
                                                                    845 mL
   Urine:
                                                                  1,235 mL
                                                                    545 mL
   NG:
                                                                    625 mL
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                  9,842 mL
                                                                   -139 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.34/20/81.[**Numeric Identifier **]/11/-12
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   55 K/uL
   9.0 g/dL
   63 mg/dL
   3.0 mg/dL
   11 mEq/L
   3.9 mEq/L
   44 mg/dL
   112 mEq/L
   136 mEq/L
   25.5 %
   5.8 K/uL
         [image002.jpg]
                             [**2119-11-7**]  12:02 AM
                             [**2119-11-7**]  02:07 AM
                             [**2119-11-7**]  04:43 AM
                             [**2119-11-7**]  10:12 AM
                             [**2119-11-7**]  12:53 PM
                             [**2119-11-7**]  06:01 PM
                             [**2119-11-7**]  08:31 PM
                             [**2119-11-8**]  02:44 AM
   WBC
   7.1
   6.9
   5.6
   5.8
   Hct
   19.1
   24.0
   24.1
   22.6
   24.2
   23.2
   25.5
   Plt
   72
   73
   63
   55
   Cr
   3.6
   3.3
   2.5
   3.0
   TCO2
   11
   Glucose
   64
   69
   63
   Other labs: PT / PTT / INR:26.6/51.7/2.6, ALT / AST:113/346, Alk Phos /
   T Bili:75/27.5, Amylase / Lipase:/153, Fibrinogen:115 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.6 g/dL, LDH:296 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-11-6**] 05:22 PM
   Multi Lumen - [**2119-11-7**] 03:34 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-11-08 09:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Diagnostic para with blood fluid thought due to previous para
   attempts
   - No EGD/[**Last Name (un) **] given borderline BP
   - [**Last Name (un) 567**] stim 13.7 - 19.8
   - Hct did not bump appropriately in am (2 units PRBC 22.6-24.2) - 2
   units PRBC overnight with 2 units FFP - repeat Hct 28
   - ABG 7.34 / 20 c/w metabolic acidosis
   - Went from RA to 2 L NC
   - Did not take HAART yesterday [**2-6**] nausea and refused so far again
   today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-11-6**] 06:30 PM
   Ceftriaxone - [**2119-11-7**] 11:30 AM
   Azithromycin - [**2119-11-7**] 03:05 PM
   Metronidazole - [**2119-11-8**] 04:00 AM
   Bactrim (SMX/TMP) - [**2119-11-8**] 08:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Flagyl, Ritonavir, Tenofavir, Azithro, Lactulose, Atenolol, Rifaximin,
   Iron, MV, Bactrim, Atazanovir, Prilosec, CTX, Albumin 75gm x 1, PRN
   zofran
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-8**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 83 (74 - 88) bpm
   BP: 113/50(64) {87/48(58) - 128/81(90)} mmHg
   RR: 24 (13 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (3 - 319)mmHg
   Total In:
                                                                 12,252 mL
                                                                    883 mL
   PO:
                                                                    150 mL
   TF:
   IVF:
                                                                  8,667 mL
                                                                    198 mL
   Blood products:
                                                                  3,585 mL
                                                                    535 mL
   Total out:
                                                                  2,410 mL
                                                                  1,105 mL
   Urine:
                                                                  1,235 mL
                                                                    805 mL
   NG:
                                                                    625 mL
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                  9,842 mL
                                                                   -222 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 2L NC
   SpO2: 94%
   ABG: 7.34/20/82 on RA
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   55 K/uL
   63 mg/dL
   3.0 mg/dL
   11 mEq/L
   3.9 mEq/L
   44 mg/dL
   112 mEq/L
   136 mEq/L
   28.1 %
   5.8 K/uL
        [image002.jpg]
                             [**2119-11-7**]  12:02 AM
                             [**2119-11-7**]  02:07 AM
                             [**2119-11-7**]  04:43 AM
                             [**2119-11-7**]  10:12 AM
                             [**2119-11-7**]  12:53 PM
                             [**2119-11-7**]  06:01 PM
                             [**2119-11-7**]  08:31 PM
                             [**2119-11-8**]  02:44 AM
                             [**2119-11-8**]  08:37 AM
   WBC
   7.1
   6.9
   5.6
   5.8
   Hct
   19.1
   24.0
   24.1
   22.6
   24.2
   23.2
   25.5
   28.1
   Plt
   72
   73
   63
   55
   Cr
   3.6
   3.3
   2.5
   3.0
   TCO2
   11
   Glucose
   64
   69
   63
   Other labs: PT / PTT / INR:26.6/51.7/2.6, ALT / AST:113/346, Alk Phos /
   T Bili:75/27.5, Amylase / Lipase:/153, Fibrinogen:115 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.6 g/dL, LDH:296 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Fluid analysis / Other labs: Para: WBC 1313 with 70% PMN, Hct 8
   Imaging: Abd CT final read - possible colitis.
   Microbiology: All cultures negative to date.  No GS from para fluid.
   Assessment and Plan
   42 y/o male with AIDS & hepatitis C, p/w fever, nausea/ vomiting, acute
   renal failure and RUQ pain.  Recent issues have included persistent
   hypotension requiring large volume resuscitation, and dropping hct .
   # Hypotension: Thought [**2-6**] volume depletion, and now normotensive after
   aggressive volume depletion.  Sepsis must be still considered.  [**Last Name (un) 567**]
   stim not appropriate, but hypotension resolved without steroids.
   - Continue abx
   - Follow IVF
   - Repeat [**Last Name (un) **] stim when acute infection resolved
   - Low bicarb: check ABG to determine acid-base status (?lactatic
   acidosis, RTA, etc)
   # Abdominal pain: Para c/w SBP.  CT with possible colitis, no
   pancreatitis.  Abdominal pain improved today.
   - F/U repeat stool studies, CMV viral load
   - Abx narrowed to CTX for SBP
   - Plan to d/c flagyl if c.diff negative
   - Advance diet as tolerated.
   # Oxygen requirement: Likely [**2-6**] volume overload from 20 L of IVF
   - CXR today
   - Diurese in am if stable
   - OOB to chair with IS use
   # Decompensated Cirrhosis: Likely progression of liver disease [**2-6**]
   underlying Hep C (viral load 405K).
   - Plan to restart lasix, aldactone, and nadolol tomorrow if
   normotensive
   - Continue lactulose/rifaximin
   - Hepatology consult appreciated
   # Acidosis
 Metabolic acidosis with AG of 13 (Albumin 1.6).  Lactate
   normal. No evidence of DKA. Could be due to starvation ketosis and
   urea.   Also with concurrent non-AG acidosis (delta 9), likely [**2-6**]
   diarrhea +/- RTA.
   - Urine lytes for urine AG
   - Ketones
   # ARF: Likey pre-renal given poor PO intake.  [**Month (only) 8**] also be a component
   of hepato-renal syndrome.  Too acute for HIVAN.
   - Rrend creatinine
   - Appreciate hepatology input
   - Renal consult as didn
t improve with IVF
   - [**Month (only) 8**] need midodrine or albumin if more consistent with HRS
   # Anemia: Acute on chronic with history of possible GI bleeding. No
   events here.  H/o varices.  Likely due to bleeding into ascites from
   attempted para.
   - Serial Hcts s/p 4 units PRBC
   - Check with GI regarding plans for EGD/[**Last Name (un) **]
   # HIV/AIDS:
   - Continue outpatient HAART regimen
   - Continue azithro, bactrim and fluconazole
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-11-6**] 05:22 PM
   Multi Lumen - [**2119-11-7**] 03:34 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 22 minutes
   Patient is critically ill

2119-11-09 10:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - CMV viral load positive
   - C. diff negative so flagyl d/c'ed
   - Hct stable
   - Renal consult: c/w ATN, avoid Lasix and IVF
   - Bleeding from CL site
 large 300cc clot in dressing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-11-6**] 06:30 PM
   Azithromycin - [**2119-11-7**] 03:05 PM
   Metronidazole - [**2119-11-8**] 04:00 AM
   Bactrim (SMX/TMP) - [**2119-11-8**] 08:30 AM
   Ceftriaxone - [**2119-11-8**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-9**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 83 (70 - 85) bpm
   BP: 122/54(70) {100/29(50) - 130/73(83)} mmHg
   RR: 28 (11 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.7 kg (admission): 73.9 kg
   CVP: 8 (2 - 12)mmHg
   Bladder pressure: 32 (20 - 32) mmHg
                                Total In:
                                                                  2,185 mL
                                                                    583 mL
   PO:
                                                                    690 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    390 mL
                                                                    103 mL
   Blood products:
                                                                  1,105 mL
   Total out:
                                                                  2,195 mL
                                                                  1,375 mL
   Urine:
                                                                  1,595 mL
                                                                    575 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    -10 mL
                                                                   -792 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///12/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, left IJ TLC with mild oozing
   at entry site
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   55 K/uL
   60 mg/dL
   2.1 mg/dL
   12 mEq/L
   4.2 mEq/L
   45 mg/dL
   115 mEq/L
   140 mEq/L
   27.6 %
   7.4 K/uL
        [image002.jpg]
                             [**2119-11-7**]  04:43 AM
                             [**2119-11-7**]  10:12 AM
                             [**2119-11-7**]  12:53 PM
                             [**2119-11-7**]  06:01 PM
                             [**2119-11-7**]  08:31 PM
                             [**2119-11-8**]  02:44 AM
                             [**2119-11-8**]  08:37 AM
                             [**2119-11-8**]  03:27 PM
                             [**2119-11-8**]  10:03 PM
                             [**2119-11-9**]  03:14 AM
   WBC
   6.9
   5.6
   5.8
   7.2
   7.3
   7.4
   Hct
   24.1
   22.6
   24.2
   23.2
   25.5
   28.1
   28.2
   28.8
   27.6
   Plt
   73
   63
   55
   49
   59
   55
   Cr
   3.3
   2.5
   3.0
   2.1
   TCO2
   11
   Glucose
   69
   63
   60
   Other labs: PT / PTT / INR:28.6/53.3/2.8, ALT / AST:121/373, Alk Phos /
   T Bili:84/30.7, Amylase / Lipase:/183, Fibrinogen:119 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.6 g/dL, LDH:314 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Fluid analysis / Other labs: Urine AG 43.  CMV 600.
   Imaging: CXR [**11-8**] - Worsening edema. Cannot exclude PNA.  [**11-9**] -
   Slightly improved.
   Microbiology: C. diff negative. Stool studies negative.
   Assessment and Plan
   42 y/o male with AIDS & hepatitis C, p/w fever, nausea/ vomiting, acute
   renal failure and RUQ pain.  Admitted with persistent hypotension
   requiring large volume resuscitation and dropping hct- diagnosed with
   blood ascites/blood loss anemia, SBP, acute renal failure.
   # Hypotension: Thought [**2-6**] volume depletion (acute blood loss anemia)
   +/- SBP sepsis, now normotensive after aggressive volume depletion.
   [**Last Name (un) 567**] stim not appropriate, however as hypotension now resolved have not
   given steroids  .
   - Continue abx
   - Repeat [**Last Name (un) **] stim when acute infection resolved, given improved BP
   will not add steroids
   # Anemia: Acute on chronic with history of possible GI bleeding. No
   events here.  H/o varices.  Likely due to bleeding into ascites from
   attempted para.  Now Hct stable.  Also bleeding from CL site.
   - Refused prep for EGD/[**Last Name (un) **] and now we have probable source given
   bloody ascites
   - Consider DDAVP if does not stop oozing from CL site
   # Abdominal pain: Para c/w SBP.  CT with possible colitis, no
   pancreatitis.  Abdominal pain improved today.
   - Abx narrowed to CTX for SBP
   - Advance diet as tolerated.
   # Diarrhea: C. diff and stool studies negative. CMV positive but titers
   borderline.
   - Discuss with PCP whether lab results warrant ganciclovir
   # Oxygen requirement: Likely [**2-6**] volume overload from 20 L of IVF
   - Given recent ATN and minimal oxygen requirement, will not diurese.
   Oxygen requirement already improved from yesterday.
   - OOB to chair with IS use
   # Decompensated Cirrhosis: Likely progression of liver disease [**2-6**]
   underlying Hep C (viral load 405K).
   - Plan to restart nadolol today; hold lasix and aldactone per renal
   - Continue lactulose/rifaximin
   - Hepatology following
   # ARF: Renal states most likely c/w ATN. Bladder pressure noted to be
   high (32), in the setting of ascites and recent massive resuscitation
   - Trend creatinine
   - Appreciate renal input
   - Avoid diuresis or IVF
   - IV bicarb
   - re: high bladder pressure, pt
s renal function is improving and he
   has recently had problems with bloody ascites/blood loss anemia, so
   would hold off on performing therapeutic paracentesis. . If renal
   function and urine output  begin to worsen and bladder pressures remain
   elevated, would re-assess.
   # HIV/AIDS:
   - Continue outpatient HAART regimen
   - Continue azithro, bactrim and fluconazole
   ICU Care
   Nutrition: Advance as tolerated
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-11-6**] 05:22 PM
   Multi Lumen - [**2119-11-7**] 03:34 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes

2119-11-10 06:38:00 Physician Resident Progress Note
Chief Complaint: Fever, abdominal pain
   24 Hour Events:
   -Called out -but called back in b/c of significant bleeding from L IJ
   site
   -changed tenofovir to [**Last Name (LF) 9806**], [**First Name3 (LF) 77**] [**Doctor Last Name 9235**]
   -hepatology wanted end of life discussion
   -palliative care consulted: ativan, dilaudid, family meeting regarding
   goals of care and hospice, changed code status
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2119-11-7**] 03:05 PM
   Metronidazole - [**2119-11-8**] 04:00 AM
   Bactrim (SMX/TMP) - [**2119-11-8**] 08:30 AM
   Ceftriaxone - [**2119-11-9**] 11:37 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2119-11-10**] 05:00 AM
   Hydromorphone (Dilaudid) - [**2119-11-10**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-10**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.6
   HR: 82 (67 - 83) bpm
   BP: 110/66(74) {93/41(59) - 125/76(79)} mmHg
   RR: 18 (13 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.7 kg (admission): 73.9 kg
    CVP: 8 (8 - 11)mmHg
   Bladder pressure: 32 (32 - 32) mmHg
   Total In:
                                                                  3,140 mL
                                                                    400 mL
   PO:
                                                                  2,840 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  2,910 mL
                                                                    160 mL
   Urine:
                                                                  1,260 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    230 mL
                                                                    240 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   55 K/uL
   9.7 g/dL
   60 mg/dL
   2.1 mg/dL
   12 mEq/L
   4.2 mEq/L
   45 mg/dL
   115 mEq/L
   140 mEq/L
   27.3 %
   7.4 K/uL
        [image002.jpg]
                             [**2119-11-7**]  10:12 AM
                             [**2119-11-7**]  12:53 PM
                             [**2119-11-7**]  06:01 PM
                             [**2119-11-7**]  08:31 PM
                             [**2119-11-8**]  02:44 AM
                             [**2119-11-8**]  08:37 AM
                             [**2119-11-8**]  03:27 PM
                             [**2119-11-8**]  10:03 PM
                             [**2119-11-9**]  03:14 AM
                             [**2119-11-9**]  04:34 PM
   WBC
   5.6
   5.8
   7.2
   7.3
   7.4
   Hct
   22.6
   24.2
   23.2
   25.5
   28.1
   28.2
   28.8
   27.6
   27.3
   Plt
   63
   55
   49
   59
   55
   Cr
   2.5
   3.0
   2.1
   TCO2
   11
   Glucose
   63
   60
   Other labs: PT / PTT / INR:28.6/53.3/2.8, ALT / AST:121/373, Alk Phos /
   T Bili:84/30.7, Amylase / Lipase:/183, Fibrinogen:119 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.6 g/dL, LDH:314 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
   42 y/o male with AIDS & hepatitis C cirrhosis, who presents with fever,
   loose stools, and abdominal pain, admitted to the MICU for persistent
   hypotension despite 8L IV fluids
   ..
   .
   # Hypotension: resolved.  BPs 80s/40s on admission to ED. Thought to be
   secondary to hypovolemic secondary to poor po intake. Given subjective
   fevers, septic physiology is a possibility.
   # SBP: Diagnostic paracentesis with WBC 1313.
   -continue ceftriaxone and albumin
   -f/u hepatology recs
   .
   # Diarrhea: CT abdomen showed possible colitis, though unchanged from 1
   month prior.  CMV VL positive (borderline), though VL 1 month prior was
   negative
   -f/u stool O+P, C diff studies
   -speak with Dr. [**Last Name (STitle) 9235**] (PCP/ID) regarding treatment for CMV colitis
   -continue Ceftriaxone SBP
   -f/u liver recs
   -regular diet
   .
   # Subjective Fevers: afebrile during hospitalization.  However, we are
   treating patient for SBP. Other culture data negative.
   -f/u UA, UCx
   -f/u blood cultures
   -panculture if spikes
   . continue ceftriaxone
   # O2 requirement: currently requiring 2L O2 nc. Likely secondary to 20L
   IV fluids received for hypotension. No cough or fevers.
   -continue to monitor
   .
   # Decompensated Cirrhosis: Likely progression of liver disease [**2-6**]
   underlying Hep C (viral load 405K) with concurrent AIDS. Patient
   reports that he has been compliant with his medications. Improving
   coagulopathy.
   -continue lactulose and [**Last Name (LF) 9723**], [**First Name3 (LF) 77**] outpatient regimen
   -continue nadolol for known varices
   -hold lasix and spironolactone given acute renal failure
   -f/u hepatology recs
   .
   # Acidosis: HCO3 of 12.  ABG suggests both anion gap and non-anion gap
   metabolic acidosis.  Lactate <2.  Serum ketones negative.  Urine anion
   gap positive, with urine pH of 5.5, concerning for RTA.
   -start po HCO3 for RTA
   -trend HCO3
   .
   # HIV/AIDS: CD4 65, VL<48K in [**2119-10-31**]. Patient reports compliance with
   medications with the exception of 1 day PTA.
   - continue outpatient HAART regimen
   - azithro and bactrim PPX
   .
   # Acute renal failure: Creatinine 4.4 on admission, was 0.6 one week
   prior. Now 2.1, resolving.  Renal consulted, believe this is likely
   ATN.
   -avoid lasix and IV fluids as BP tolerates.
   -consult renal this morning
   -renally dose medications
   .
   # HCT drop: HCT 27.6 on admission, again 27.6 currently.   Had guaiac
   positive brown stool in ED, and subjective melena at home. Patient has
   known esophageal varices and hemorrhoids. Currently oozing from central
   line.
   -silver nitrate to central line site
   -DDAVP
   -monitor HCT q 12 h
   -transfuse for HCT<24
   -active T&S
   #  Hyponatremia: resolved.
   .
   # FEN: IVFs / replete lytes prn / advance diet as tolerated
   # PPX: PPI, pneumoboots, bowel regimen
   # ACCESS: PIV x2, L IJ
   # CODE:  FULL confirmed
   # DISPO: call out to [**Doctor Last Name **] [**Doctor Last Name **] today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-11-6**] 05:22 PM
   Multi Lumen - [**2119-11-7**] 03:34 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2119-11-10 11:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Patient called out, but hepatology concerned over ongoing bleeding
   from CL site, so remained in unit.
   - Changed from tenofovir to truvada.
   - Code status changed to DNR/DNI via palliative care.
   - CL no longer oozing.
   - Made CMO and plans for hospice
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2119-11-7**] 03:05 PM
   Metronidazole - [**2119-11-8**] 04:00 AM
   Bactrim (SMX/TMP) - [**2119-11-8**] 08:30 AM
   Ceftriaxone - [**2119-11-10**] 10:05 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2119-11-10**] 08:24 AM
   Lorazepam (Ativan) - [**2119-11-10**] 08:25 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-11-10**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.6
   HR: 83 (67 - 83) bpm
   BP: 114/85(90) {93/53(64) - 119/85(90)} mmHg
   RR: 14 (13 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.7 kg (admission): 73.9 kg
   CVP: 8 (8 - 8)mmHg
   Total In:
                                                                  3,140 mL
                                                                  1,050 mL
   PO:
                                                                  2,840 mL
                                                                  1,000 mL
   TF:
   IVF:
                                                                    300 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,910 mL
                                                                    405 mL
   Urine:
                                                                  1,260 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    230 mL
                                                                    645 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///13/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Markedly distended
   more today
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   55 K/uL
   126 mg/dL
   2.4 mg/dL
   13 mEq/L
   4.0 mEq/L
   47 mg/dL
   111 mEq/L
   135 mEq/L
   26.6 %
   9.1 K/uL
        [image002.jpg]
                             [**2119-11-7**]  12:53 PM
                             [**2119-11-7**]  06:01 PM
                             [**2119-11-7**]  08:31 PM
                             [**2119-11-8**]  02:44 AM
                             [**2119-11-8**]  08:37 AM
                             [**2119-11-8**]  03:27 PM
                             [**2119-11-8**]  10:03 PM
                             [**2119-11-9**]  03:14 AM
                             [**2119-11-9**]  04:34 PM
                             [**2119-11-10**]  05:53 AM
   WBC
   5.6
   5.8
   7.2
   7.3
   7.4
   9.1
   Hct
   24.2
   23.2
   25.5
   28.1
   28.2
   28.8
   27.6
   27.3
   26.6
   Plt
   63
   55
   49
   59
   55
   55
   Cr
   2.5
   3.0
   2.1
   2.4
   TCO2
   11
   Glucose
   63
   60
   126
   Other labs: PT / PTT / INR:32.3/54.3/3.3, ALT / AST:110/317, Alk Phos /
   T Bili:92/33.4, Amylase / Lipase:/183, Fibrinogen:119 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:1.6 g/dL, LDH:314 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Imaging: No new imaging.
   Microbiology: No new culture data.
   Assessment and Plan
   42 y/o male with AIDS & hepatitis C, p/w fever, nausea/ vomiting, acute
   renal failure and RUQ pain.  Admitted with persistent hypotension
   requiring large volume resuscitation and dropping hct- diagnosed with
   blood ascites/blood loss anemia, SBP, acute renal failure.  Now patient
   made DNI/DNR with plans for hospice/CMO.
   # Decompensated Cirrhosis: Likely progression of liver disease [**2-6**]
   underlying Hep C (viral load 405K).   Markedly distended abdomen.
   - Abx narrowed to CTX for SBP
   - Check bladder pressure
   - Palliative para if patient desires
   - On nadolol; holding lasix and aldactone per renal
   - Continue lactulose/rifaximin
   - Hepatology following
   # Hypotension: Thought [**2-6**] volume depletion (acute blood loss anemia)
   +/- SBP sepsis, now normotensive after aggressive volume depletion.
   [**Last Name (un) 567**] stim not appropriate, however as hypotension now resolved have not
   given steroids  .
   - Continue abx for SBP
   # Anemia/coagulopathy/thrombocytopenia: Acute on chronic with history
   of possible GI bleeding. No events here.  H/o varices.  Likely due to
   bleeding into ascites from attempted para.  Now Hct stable.  Also
   bleeding from CL site.
   - Refused prep for EGD/[**Last Name (un) **] and now we have probable source given
   bloody ascites
   - DDAVP and FFP today before paracentesis
   # ARF: Renal states most likely c/w ATN. Bladder pressure noted to be
   high (32), in the setting of ascites and recent massive resuscitation.
   Likely has component of compartment syndrome.
   - Trend creatinine
   - Appreciate renal input
   - Avoid diuresis or IVF
   # HIV/AIDS:
   - Continue outpatient HAART regimen
   - Continue azithro, bactrim and fluconazole
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-11-6**] 05:22 PM
   Multi Lumen - [**2119-11-7**] 03:34 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments: Plan to discuss hospice today.
   Code status: DNR / DNI, CMO/Hospice
   Disposition :Transfer to floor
   Total time spent: 25 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was present with the ICU team for the
   key portions of services provided. I agree with Dr. [**Last Name (STitle) 2956**]
s note
   above, including assessment and plan. I would add: 42 yo male with
   AIDS, Hep C cirrhosis admitted with SBP, bloody ascites with acute
   blood loss anemia and hypotension, and acute renal failure secondary to
   ATN (also concern for abdominal compartment syndrome). Given pt
   worsening end-stage liver disease, goals of care discussion held with
   pt and palliative care, with decision to make pt DNR and focus on CMO
   measures. Case manager looking into transitioning into facilities for
   home hospice.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2119-11-10**] 16:33 ------